US07319101B2
d) 2,3-Dihydroxy-5-(4-methyl-benzoyl)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester
To a solution of 2,3-dihydroxy-5-(4-methyl-benzoyl)-benzoic acid (214 mg, 0.79 mmol) in 10 mL dry THF cooled to 0° C., N-hydroxysuccinimide (136 mg, 1.18 mmol, 1.5 eq.) and N-cyclohexylcarbodiimide, N′-methyl polystyrene HL (Novabiochem) (1.9 eq./g, 832 mg, 2 eq.) were added and the solution was stirred 14 h while the cooling bath slowly warmed up to r.t. The solution was filtered and the filtrate was evaporated under reduced pressure. The crude product was recrystallised from H2O to yield the desired product as a brownish solid.

reactant | 2,3-dihydroxy-5-(4-methyl-benzoyl)-benzoic acid | 0.79 mmol, 214 mg | OC1=C(C(=O)O)C=C(C=C1O)C(C1=CC=C(C=C1)C)=O | C15H12O5
reactant | N-hydroxysuccinimide | 1.18 mmol, 136 mg, 1.5 eq. | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-cyclohexylcarbodiimide | C1(CCCCC1)N=C=N | C7H12N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,3-Dihydroxy-5-(4-methyl-benzoyl)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=C(C(=CC(=C1)C(C1=CC=C(C=C1)C)=O)O)O)=O | C19H15NO7
